US05821240
(17) 4-[(4-Amino-3,5-dichlorophenyl)amino]-6-[trans-4-(morpholinocarbonyl)cyclohexylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(4-amino-3,5-dichlorophenyl)amino]-6-[(trans-4-carboxycyclohexyl)amino]pyrimido[5,4-d]pyrimidine by reaction with O-(benzotriazol-1-yl)-N,N,N',N',-tetramethyluronium tetrafluoroborate, triethylamine and morpholine. Melting point: 204°-207° C.; Rf : 0.53 (silica gel; petroleum ether/ethyl acetate/methanol=10:10:4)

reactant | 4-[(4-amino-3,5-dichlorophenyl)amino]-6-[(trans-4-carboxycyclohexyl)amino]pyrimido[5,4-d]pyrimidine | NC1=C(C=C(C=C1Cl)NC=1C2=C(N=CN1)C=NC(=N2)N[C@@H]2CC[C@H](CC2)C(=O)O)Cl | C19H19Cl2N7O2
reactant | O-(benzotriazol-1-yl)-N,N,N',N',-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-[(4-Amino-3,5-dichlorophenyl)amino]-6-[trans-4-(morpholinocarbonyl)cyclohexylamino]pyrimido[5,4-d]pyrimidine | NC1=C(C=C(C=C1Cl)NC=1C2=C(N=CN1)C=NC(=N2)N[C@@H]2CC[C@H](CC2)C(=O)N2CCOCC2)Cl | C23H26Cl2N8O2
